US05336482
1-Isopropyl-3-hydroxy-2-methylpyrid-4-one was prepared by refluxing 3-hydroxy-2-methylpyrid-4-one (Maltol) (10.0 g) with 3 equivalents of isopropylamine (99%) in 200 ml of water for 8 hours. Decolorizing charcoal was added after refluxing and the mixture was stirred for 0.5 hours. The mixture was then filtered through a medium frit filter containing 0.5 inches of Celite. The filtered solution was then concentrated in vacuo (rotary evaporator) to remove the water and excess amine, leaving a dark thick oil. The oil was then dissolved in minimal amounts of hot acetone and filtered (repeatedly) through a medium frit filter. Brownish crystals (product) remained on the frit and these were then washed (3X) with 1 ml portions of hot acetone to obtain white crystals. m.p. 239°-242 ° C.

reactant | 3-hydroxy-2-methylpyrid-4-one | 10.0 g | OC1C(=NC=CC1=O)C | C6H7NO2
reactant | isopropylamine | 3 equivalents | C(C)(C)N | C3H9N
reactant | charcoal | C | CH4
solvent | water | 200 ml | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 1-Isopropyl-3-hydroxy-2-methylpyrid-4-one | C(C)(C)N1C(=C(C(C=C1)=O)O)C | C9H13NO2
